US06251894B1
A mixture of N-(1-methylethyl)-2-propanamine (16.7 g) in THF (600ml) was stirred at −70° C. under N2 flow. Butyllithium in hexane (63 ml; 2.5 M) was added portionwise and the temperature was allowed to rise to −40° C. and stirring was continued for 15 minutes. The mixture was cooled to −70° C. and a suspension of 1-(phenylmethyl)benzimidazole (31.3 g) in THF was added dropwise. After stirring for 1 hour at −70° C., 4-(ethoxy-carbonyl)-1-piperidinecarboxylic acid 1,1-dimethylethyl ester (42.5 g) was added dropwise and stirring at −70° C. was continued for 1.5 hours. The temperature was allowed to rise to RT and the mixture was decomposed with water, and further extracted with CH2Cl2. The organic layer was separated, dried, filtered and the solvent evaporated. The residue was crystallized from acetonitrile, yielding 54 g (85.8%) of (1,1-dimethylethyl) 4-[[1-(phenylmethyl)-1H-benzimidazol-2-yl]carbonyl]-1-piperidinecarboxylate (interm. 1; mp. 121.5° C.).

reactant | N-(1-methylethyl)-2-propanamine | 16.7 g | CC(C)NC(C)C | C6H15N
reactant | Butyllithium | C(CCC)[Li]
reactant | 1-(phenylmethyl)benzimidazole | 31.3 g | C1(=CC=CC=C1)CN1C=NC2=C1C=CC=C2 | C14H12N2
reactant | 4-(ethoxy-carbonyl)-1-piperidinecarboxylic acid 1,1-dimethylethyl ester | 42.5 g | CC(C)(C)OC(=O)N1CCC(CC1)C(=O)OCC | C13H23NO4
solvent | THF | 600ml | C1CCOC1 | C4H8O
solvent | hexane | 2.5 M, 63 ml | CCCCCC | C6H14
solvent | water | O | H2O
product | (1,1-dimethylethyl) 4-[[1-(phenylmethyl)-1H-benzimidazol-2-yl]carbonyl]-1-piperidinecarboxylate | 54 g, 85.8% | C1(=CC=CC=C1)CN1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)C(=O)OC(C)(C)C | C25H29N3O3
